US07863271B2
A solution of 5-(chloromethyl)-4-methyl-1-trityl-1H-imidazole (1.00 g, 2.68 mmol) in ammonia (7 N in CH3OH, 4 mL, 28 mmol) was heated to 50° C. in a sealed tube for 16 h. The reaction mixture was concentrated under reduced pressure and the crude material purified by column chromatography (silica gel, 100% CH2Cl2 to 50% CH3OH) to provide (4-methyl-1-trityl-1H-imidazol-5-yl)methanamine (250 mg, 26%). 1H NMR consistent.

reactant | 5-(chloromethyl)-4-methyl-1-trityl-1H-imidazole | 2.68 mmol, 1.00 g | ClCC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H21ClN2
reactant | ammonia | 28 mmol, 7 N, 4 mL | N | H3N
product | (4-methyl-1-trityl-1H-imidazol-5-yl)methanamine | 250 mg, 26% | CC=1N=CN(C1CN)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23N3
